US08563583B2
A. 4-(4-Chlorobenzylthio)pyridin-2(1H)-one
A mixture of 4-chloropyridin-2(1H)-one (100 mg, 0.77 mmol), K2CO3 (320 mg, 2.32 mmol) and (4-chlorophenyl)methanethiol (612 mg, 3.86 mmol) was stirred at 100° C. for 18 hours. After cooling the reaction to RT and was dilution with CH2Cl2 (5 mL), the crude product was subjected to flash chromatography (silica gel/hexane-EtOAc 100:0 to 0:100 gradient, employing LC-MS to identify the fractions containing the desired product) to afford 4-(4-chlorobenzylthio)pyridin-2(1H)-one 8A (96 mg, 46.9% yield). 1H NMR (400 MHz, Chloroform-D) δ ppm 12.30 (1H, br. s.), 7.28-7.43 (4H, m), 7.15 (1H, d, J=7.03 Hz), 6.28 (1H, d, J=1.51 Hz), 6.11 (1H, dd, J=6.90, 1.88 Hz), 4.11 (2H, s).

reactant | 4-chloropyridin-2(1H)-one | 0.77 mmol, 100 mg | ClC1=CC(NC=C1)=O | C5H4ClNO
reactant | K2CO3 | 2.32 mmol, 320 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (4-chlorophenyl)methanethiol | 3.86 mmol, 612 mg | ClC1=CC=C(C=C1)CS | C7H7ClS
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Chlorobenzylthio)pyridin-2(1H)-one | ClC1=CC=C(CSC2=CC(NC=C2)=O)C=C1 | C12H10ClNOS
